US06403362B1
TP-1:
Tyr-Gly-Gly-Ile-Ser-Ser SEQ ID NO. 8 (6 amino acids) TP-2: Phe-Pro-Asp-Ala-Leu-Lys SEQ ID NO. 9 (6 amino acids) TP-3: Phe-Asp-Trp-Phe-Lys-Asn-Ala-Asp-Asn-Pro-Ser-Phe-Ser-Phe-Arg SEQ ID NO. 10.

reactant | Tyr-Gly-Gly-Ile-Ser-Ser | N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CO)C(=O)N[C@@H](CO)C(=O)O | C25H38N6O10
reactant | TP-2 | C1[C@H]([C@@H]([C@H]2[C@@H]1OC(=O)C2)/C=C/[C@H](COC3=CC=CC(=C3)C(F)(F)F)O)O | C18H19F3O5
reactant | Phe-Pro-Asp-Ala-Leu-Lys | N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCN)C(=O)O)CCC1 | C33H51N7O9
reactant | TP-3 | C(CCN)C[C@@H](C(=O)N[C@@H](CCC(=O)O)C(=O)O)NC(=O)[C@H](CCCN=C(N)N)N | C17H33N7O6
reactant | Phe-Asp-Trp-Phe-Lys-Asn-Ala-Asp-Asn-Pro-Ser-Phe-Ser-Phe-Arg | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N1[C@H](C(=O)N[C@@H](CO)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1 | C89H116N22O24
product | TP-1 | C/C=C/C1C[C@H]([C@H](C1)O)O | C8H14O2
